US07005553B2
3,4-dihydroxy-2-nitrobenzophenone
To a stirred suspension of 3-Hydroxy4-methoxy-2-nitrobenzophenone (8.3 g, 30.38 mmol) in 1,2-dichloroethane (100 ml) at room temperature under argon was added aluminium chloride (4.46 g, 33.45 mmol) in one portion followed by pyridine (9.61 g, 9.81 ml, 121.5 mmol) giving rise to an exothermic reaction. the mixture was stirred at reflux for one hour, allowed to cool to room temperature and then poured onto ice-water (300 ml). Hydrochloric acid (2N, 70 ml) was added and the mixture was stirred for one hour (initial orange precipitate gradually became yellow in appearance. The solid was removed by filtration, washed by water (30 ml) and dried under vacuum to give the product as a yellow solid 6.99 g, (89%) of melting point 153–155° C. The organic phase of the filtrate was separated and the aqueous phase was extracted by dichloromethane (20 ml). The combined organic phases were washed by brine (30 ml), dried over anhydrous sodium sulphate and the solvent removed on a rotary evaporator (bath temp. 40° C.) to leave a yellow solid (0.7 g) which was not purified further.

reactant | 3-Hydroxy4-methoxy-2-nitrobenzophenone | 30.38 mmol, 8.3 g | OC=1C(=C(C(=O)C2=CC=CC=C2)C=CC1OC)[N+](=O)[O-] | C14H11NO5
reactant | aluminium chloride | 33.45 mmol, 4.46 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | pyridine | 121.5 mmol, 9.81 ml, 9.61 g | N1=CC=CC=C1 | C5H5N
reactant | Hydrochloric acid | 2N, 70 ml | Cl | ClH
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 3,4-dihydroxy-2-nitrobenzophenone | 6.99 g, 89% | OC=1C(=C(C(=O)C2=CC=CC=C2)C=CC1O)[N+](=O)[O-] | C13H9NO5
